US08012976B2
A mixture of 8,9-bis(3-(diethoxymethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (120 mg, 0.46 mmol) in 3N hydrochloric acid (5 mL) was stirred at room temperature for 3 hr. The mixture was then adjusted to pH=8 with potassium carbonate. The resulting suspension was filtered to give 3,3′-(3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8,9-diyl)dibenzaldehyde (160 mg, yield 88%) as a light yellow solid. LC-MS (ESI) m/z: 396(M+1)+.

reactant | 8,9-bis(3-(diethoxymethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.46 mmol, 120 mg | C(C)OC(C=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC(=CC=C1)C(OCC)OCC)OCC | C32H37N3O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 3N, 5 mL | Cl | ClH
product | 3,3′-(3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8,9-diyl)dibenzaldehyde | 160 mg, yield 88% | O=C1NN=C2C=3C(=CC=CC13)NC(C2C=2C=C(C=O)C=CC2)C=2C=C(C=O)C=CC2 | C24H17N3O3
